US07078405B2
4-(4-Methoxy-2-methylphenyl)-3-pyridazineamine
10% Pd—C (hydrous product; 7.89 g) and ammonium formate (11.96 g) were added to a solution of 6-chloro-4-(4-methoxy-2-methylphenyl)-3-pyridazineamine (7.89 g) in methanol (100 mL), and the mixture was heated under reflux for 1.5 hours. The reaction mixture was filtered through Celite, and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:ethanol=10:1) to give the title compound (6.16 g) as white crystals.

reactant | ammonium formate | 11.96 g | C(=O)[O-].[NH4+]
reactant | 6-chloro-4-(4-methoxy-2-methylphenyl)-3-pyridazineamine | 7.89 g | ClC1=CC(=C(N=N1)N)C1=C(C=C(C=C1)OC)C | C12H12ClN3O
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd—C | 7.89 g | [Pd] | Pd
product | 4-(4-Methoxy-2-methylphenyl)-3-pyridazineamine | 6.16 g | COC1=CC(=C(C=C1)C1=C(N=NC=C1)N)C | C12H13N3O
